US08026257B2
3-Bromo-5-(trifluoromethyl)-2-((2-(trimethylsilyl)ethoxy)methyl)-2H-indazole-7-carbaldehyde.
(3-Bromo-5-(trifluoromethyl)-2-((2-(trimethylsilyl)ethoxy)methyl)-2H-indazol-7-yl)methanol 3-Bromo-5-(trifluoromethyl)-2-((2-(trimethylsilyl)ethoxy)methyl)-2H-indazole-7-carbaldehyde (400 mg, 0.95 mmol) was suspended in ethanol (5 mL), cooled to 0° C., and treated sodium borohydride (18 mg, 0.47 mmol) in one portion. Cooling was removed and the reaction stirred at room temperature for 1 h. The reaction was cooled to 0° C. and treated with saturated aqueous ammonium chloride. The reaction was concentrated to remove most of the ethanol and diluted with ethyl acetate. The layers were separated and the organic layer washed with brine (2×), dried over sodium sulfate, filtered and concentrated. Flash chromatography on silica gel afforded 220 mg (55%) as a light yellow oil. 1H-NMR (CDCl3, 300 MHz) δ 7.86 (s, 1H), 7.61 (s, 1H), 5.86 (s, 2H), 5.02 (s, 2H), 3.51-3.56 (m, 2H), 0.79-0.85 (m, 2H), 0.09 (s, 9H). Mass spec.: 448.82 (MNa)+.

reactant | (3-Bromo-5-(trifluoromethyl)-2-((2-(trimethylsilyl)ethoxy)methyl)-2H-indazol-7-yl)methanol 3-Bromo-5-(trifluoromethyl)-2-((2-(trimethylsilyl)ethoxy)methyl)-2H-indazole-7-carbaldehyde | 0.95 mmol, 400 mg | BrC=1N(N=C2C(=CC(=CC12)C(F)(F)F)C=O)COCC[Si](C)(C)C.BrC=1N(N=C2C(=CC(=CC12)C(F)(F)F)CO)COCC[Si](C)(C)C
reactant | sodium borohydride | 0.47 mmol, 18 mg | [BH4-].[Na+]
solvent | ethanol | 5 mL | C(C)O | C2H6O
product | 3-Bromo-5-(trifluoromethyl)-2-((2-(trimethylsilyl)ethoxy)methyl)-2H-indazole-7-carbaldehyde | BrC=1N(N=C2C(=CC(=CC12)C(F)(F)F)C=O)COCC[Si](C)(C)C | C15H18BrF3N2O2Si
